* C:\Users\gauti\Documents\MATLAB\cmi55.asc
V1 VDC 0 0.9
V2 Vin VDC SINE(0 {vamp} {X/T})
A1 Vin 0 0 VCLK 0 0 V_snh 0 SAMPLEHOLD
V3 VDD 0 1.8
A2 N002 VSS VCLK VSS VSS ~PRBS_OUT PRBS_OUT VSS DFLOP Vhigh = 1.8 Vlow = 0 Trise = {tff_rise} Tfall = {tff_rise} Td = {td_DFF}
A3 PRBS_OUT VSS VCLK VSS VSS VSS N003 VSS DFLOP Vhigh = 1.8 Vlow = 0 Trise = {tff_rise} Tfall = {tff_rise} Td = {td_DFF}
A4 N003 VSS VCLK VSS VSS VSS N004 VSS DFLOP Vhigh = 1.8 Vlow = 0 Trise = {tff_rise} Tfall = {tff_rise} Td = {td_DFF}
A5 N004 VSS VCLK VSS VSS VSS N005 VSS DFLOP Vhigh = 1.8 Vlow = 0 Trise = {tff_rise} Tfall = {tff_rise} Td = {td_DFF}
A6 N005 VSS VCLK VSS VSS VSS N006 VSS DFLOP Vhigh = 1.8 Vlow = 0 Trise = {tff_rise} Tfall = {tff_rise} Td = {td_DFF}
A7 N006 VSS VCLK VSS VSS VSS N007 VSS DFLOP Vhigh = 1.8 Vlow = 0 Trise = {tff_rise} Tfall = {tff_rise} Td = {td_DFF}
A8 N007 VSS VCLK VSS VSS VSS N001 VSS DFLOP Vhigh = 1.8 Vlow = 0 Trise = {tff_rise} Tfall = {tff_rise} Td = {td_DFF}
A9 N001 PRBS_OUT VSS VSS VSS N002 VSS VSS XOR Vhigh = 1.8 Vlow = 0 Trise = {tff_rise} Tfall = {tff_rise} Td = {td_DFF}
V4 VCLK 0 PULSE({VDD} {VSS} {Tp} 500p 500p {Tp} {T})
A10 VCLK 0 0 0 0 ~VCLK 0 0 BUF Vhigh = 1.8 Vlow = 0 Trise = {tff_rise} Tfall = {tff_rise} Td = {td_DFF}
G1 VDD N008 V_snh 0 {G}
G2 N010 0 V_snh 0 {G}
S1 N008 Vp1 CHARGE1 0 MYSW
S2 Vp1 N010 DISCHARGE1 0 MYSW
S3 N010 VDC ~DISCHARGE1 0 MYSW
S4 VDC N008 ~CHARGE1 0 MYSW
C1 Vp1 0 5p
S5 VDC Vp1 RESET1 0 MYSW
A11 ~VCLK PRBS_OUT ~RESET1 VDD VDD ~CHARGE1 CHARGE1 0 AND Vhigh = 1.8 Vlow = 0 Trise = {tff_rise} Tfall = {tff_rise} Td = {td_DFF}
A12 ~VCLK ~PRBS_OUT ~RESET1 VDD VDD ~DISCHARGE1 DISCHARGE1 0 AND Vhigh = 1.8 Vlow = 0 Trise = {tff_rise} Tfall = {tff_rise} Td = {td_DFF}
V5 VSS 0 0
V6 N009 0 PULSE({VSS} {VDD} {4*T+Tp} 500p 500p {3*T+Tp} {8*T})
A13 RESET1 0 0 0 0 ~RESET1 0 0 BUF Vhigh = 1.8 Vlow = 0 Trise = {tff_rise} Tfall = {tff_rise} Td = {td_DFF}
G3 VDD N011 V_snh 0 {G}
G4 N012 0 V_snh 0 {G}
S6 N011 Vp2 CHARGE2 0 MYSW
S7 Vp2 N012 DISCHARGE2 0 MYSW
S8 N012 VDC ~DISCHARGE2 0 MYSW
S9 VDC N011 ~CHARGE2 0 MYSW
C2 Vp2 0 5p
S10 VDC Vp2 RESET2 0 MYSW
V7 RESET2 0 PULSE({VDD} {VSS} {4*T} 500p 500p {4*T+Tp1} {8*T})
A14 RESET2 0 0 0 0 ~RESET2 0 0 BUF Vhigh = 1.8 Vlow = 0 Trise = {tff_rise} Tfall = {tff_rise} Td = {td_DFF}
A15 ~VCLK PRBS_OUT ~RESET2 VDD VDD ~CHARGE2 CHARGE2 0 AND Vhigh = 1.8 Vlow = 0 Trise = {tff_rise} Tfall = {tff_rise} Td = {td_DFF}
A16 ~VCLK ~PRBS_OUT ~RESET2 VDD VDD ~DISCHARGE2 DISCHARGE2 0 AND Vhigh = 1.8 Vlow = 0 Trise = {tff_rise} Tfall = {tff_rise} Td = {td_DFF}
A17 VSS VSS VSS INIT N009 0 RESET1 0 OR Vhigh = 1.8 Vlow = 0 Trise = {tff_rise} Tfall = {tff_rise} Td = {td_DFF}
V8 INIT 0 PULSE({VSS} {VDD} 0 500p 500p {Tp} {1000*T})
.include tsmc018.txt
.LIB opamp.sub
.model MYSW SW(Ron=1 Roff=100Meg Vt=.9 Vh=0)
.ic V(vp) = 0 V(Q0) = 0 V(Q1) = 0 V(D0) = 0 V(D1) = 0
.options gmin = 1e-10
.options abstol = 1e-10
.options reltol = 0.003
.param G = 0.0001
.tran {200*T} uic
.param td_DFF = 50p tff_rise = 50p
.param VDD=1.8V VSS=0V T=40n Tp=20n Tp1=20n
.param vamp = 0.2

.param X = 0.23

.backanno
.end

